US05599829
3-(2-Chloro-6-methylphenyl)-2-ethylsulfanyl-3,5-dihydroimidazol-4-one
The title compound was prepared by the procedure described in Example 6 using 12.9 g of 2-[3-(2-chloro-6-methylphenyl)-thioureido]-acetamide, and 18.0 g of ethyl iodide. The hydrochloride salt was prepared in ethereal hydrogen chloride. Crystallization from ethyl acetate afforded the title compound as the monohydrochloride as a light yellow solid (4.9 g), m.p. 152°-154° C. (dec.). Anal. Calcd. for. C12H13Cl N2O S. HCl: C, 47.22; H, 4.62; N, 9.18. Found: C, 46.99; H, 4.60; N, 9.16. Mass spectrum (+FAB, [M+H]+) m/z 269/271 1H-NMR (DMSO-d6 ; 400 MHz) δ8.28 (broad s, 2H), 7.51 (m, 1H), 7.44 (t, 1H), 7.39 (m, 1H), 4.51 (q, 2H), 3.12 (q, 2H), 2.17 (s, 3H), and 1.27 ppm (t, 3H).

reactant | 2-[3-(2-chloro-6-methylphenyl)-thioureido]-acetamide | 12.9 g | ClC1=C(C(=CC=C1)C)NC(NCC(=O)N)=S | C10H12ClN3OS
reactant | ethyl iodide | 18.0 g | C(C)I | C2H5I
solvent | hydrogen chloride | Cl | ClH
product | 3-(2-Chloro-6-methylphenyl)-2-ethylsulfanyl-3,5-dihydroimidazol-4-one | 4.9 g | ClC1=C(C(=CC=C1)C)N1C(=NCC1=O)SCC | C12H13ClN2OS
